US04703124
A one-liter glass flask equipped with a stirrer, a dropping funnel with a gas introduction conduit, a reflux condenser with a calcium chloride tube, and a thermometer was charged with 240 grams (2.0 moles) of purified cumene, 4.0 grams (0.17 mole) of metallic sodium, and 3.6 grams (0.02 mole) of 80% cumene hydroperoxide while introducing argon gas through the gas introduction conduit, and the resulting mixture was heated to 135° C. A mixture of 69 grams (0.66 mole) of purified styrene and 60 grams (0.50 mole) of purified cumene was dropped thereto with stirring over 2 hours while maintaining the temperature of the reaction system at 135°-140° C. After dropwise addition was completed, the reaction mixture was further stirred while heating for 1 hour and then cooled to room temperature. An excess of metallic sodium was decomposed by dropping methanol in small portions while stirring. Introduction of argon gas was stopped, and the contents were transferred to a separating funnel and washed with water. The aqueous layer was removed, and the remaining oily layer was analyzed by gas chromatography. This gas chromatographic analysis showed that 67.6 grams (0.31 mole) of 1,3-diphenyl-3-methylbutane and 36.5 grams of (0.11 mole) of 1,3,5-triphenyl-5-methylhexane were formed. The total yield (per styrene) was 80 mole %.

reactant | cumene | 2.0 moles, 240 grams | C1(=CC=CC=C1)C(C)C | C9H12
reactant | sodium | 0.17 mole, 4.0 grams | [Na] | Na
reactant | cumene hydroperoxide | 0.02 mole, 3.6 grams | [O-]O.C1(=CC=CC=C1)C(C)C
reactant | styrene | 0.66 mole, 69 grams | C=CC1=CC=CC=C1 | C8H8
reactant | cumene | 0.50 mole, 60 grams | C1(=CC=CC=C1)C(C)C | C9H12
reactant | 1,3-diphenyl-3-methylbutane | 0.31 mole, 67.6 grams | C1(=CC=CC=C1)CCC(C)(C)C1=CC=CC=C1 | C17H20
solvent | methanol | CO | CH4O
product | 1,3,5-triphenyl-5-methylhexane | 0.11 mole, 36.5 grams | C1(=CC=CC=C1)CCC(CC(C)(C)C1=CC=CC=C1)C1=CC=CC=C1 | C25H28
